US06166010
The procedure is as for Example 85, but 4 g (11.1 mmol) of N-(2,6-difluorobenzoyl)-3-amino-3-(3-trifluoromethylphenyl)-1-propanol are employed instead of N-(2,6-difluorobenzoyl)-3-amino-3-(4-chlorophenyl)-1-propanol. 2.7 g (71.1%) of 2-(2,6-difluorophenyl)-4-(3-trifluoromethylphenyl)-5,6-dihydro(4H)1,3-oxazine are obtained as a colorless oil.

reactant | N-(2,6-difluorobenzoyl)-3-amino-3-(3-trifluoromethylphenyl)-1-propanol | 11.1 mmol, 4 g | FC1=C(C(=O)NC(CCO)C2=CC(=CC=C2)C(F)(F)F)C(=CC=C1)F | C17H14F5NO2
reactant | N-(2,6-difluorobenzoyl)-3-amino-3-(4-chlorophenyl)-1-propanol | FC1=C(C(=O)NC(CCO)C2=CC=C(C=C2)Cl)C(=CC=C1)F | C16H14ClF2NO2
product | 2-(2,6-difluorophenyl)-4-(3-trifluoromethylphenyl)-5,6-dihydro(4H)1,3-oxazine | 2.7 g, 71.1% | FC1=C(C(=CC=C1)F)C=1OCCC(N1)C1=CC(=CC=C1)C(F)(F)F | C17H12F5NO
